US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione in Example 1f (150 mg, 0.263 mmol), dimethylamine hydrochloride (43 mg, 0.526 mmol), EDC.HCl (100 mg, 0.526 mmol), HOBt (71 mg, 0.526 mmol) and DIPEA (204 mg, 1.579 mmol) in anhydrous THF (3 mL) was stirred at room temperature overnight. Then the mixture was filtered and the filtrate was concentrated. The residue was purified by Prep-HPLC to give title compound as a white solid (50 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O5
reactant | dimethylamine hydrochloride | 0.526 mmol, 43 mg | Cl.CNC
reactant | EDC.HCl | 0.526 mmol, 100 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.526 mmol, 71 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.579 mmol, 204 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-dimethylcarbamoyl-1-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(N(C)C)=O)=O)C1=C(C=CC(=C1)F)C)=O | C31H30Cl2FN3O4
